US06288036B1
From N-Boc-D-cHyp(Tosyloxy)-OMe (5.27 mmol, 2.50 g), powdered KOH (13.2 mmol, 0.74 g), and 2-nitrophenol (13.2 mmol, 1.83 g), held at reflux for 6 days, the 2-nitrophenyl ether of D-trans-hydroxyproline methyl ester (0.29 g, 14%) was obtained. Purification by column chromatography (silica ge, ethyl acetate/hexane mixtures) yielded no pure fractions. All fractions bearing product were combined and purified in three equal portions using the chromatotron (4 mm silica gel plates) and a mixture of ethyl acetate/CH2Cl2/hexane (2:9:9:) which was found to effect separation on TLC plates. The mixture of ethyl acetate/CH2Cl2 (2:9) will be referred to as mixture A or simply A.

reactant | KOH | 13.2 mmol, 0.74 g | [OH-].[K+]
reactant | 2-nitrophenol | 13.2 mmol, 1.83 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
product | 2-nitrophenyl ether | [N+](=O)([O-])C1=C(C=CC=C1)OC1=C(C=CC=C1)[N+](=O)[O-] | C12H8N2O5
